US05112385
3-(2,5-Dichlorophenoxy)-1-methoxy-1-methyl urea (Compound No. 501)
4.5 g (25 mmol) of 2,5-dichlorophenoxyamine was dissolved in 10 ml of pyridine, and then 5.6 g (38 mmol) of methoxymethylcarbamoyl chloride was added. The mixture was stirred at a temperature of from 25° to 30° C. for 12 hours. After an addition of 200 ml of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off, and precipitated crystals were recrystallized from ethyl acetate-hexane, whereby 4.8 g of the desired product was obtained (yield: 72%).

reactant | 2,5-dichlorophenoxyamine | 25 mmol, 4.5 g | ClC1=C(ON)C=C(C=C1)Cl | C6H5Cl2NO
reactant | methoxymethylcarbamoyl chloride | 38 mmol, 5.6 g | COCNC(=O)Cl | C3H6ClNO2
reactant | water | 200 ml | O | H2O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,5-Dichlorophenoxy)-1-methoxy-1-methyl urea | 4.8 g, yield: 72% | ClC1=C(ONC(N(C)OC)=O)C=C(C=C1)Cl | C9H10Cl2N2O3
